US20010000513A1
Step (a) Preparation of 4-(4-Bromo-phenyl)-4-oxo-butyric acid, methyl ester
In a manner similar to Example 2, Step (a), bromobenzene (10.0 mL, 0.0950 mol) was allowed to react with 3-carbomethoxypropionyl chloride (12.9 mL, 0.105 mol) in the presence of aluminum chloride (26.9 g, 0.202 mol) in dichloromethane to give, after chromatography on silica gel (435 g, 230-400 mesh), eluting with hexanes-acetone (9:1, 10×400 mL; 8:1, 7×400 mL), 21.2 g of 4-(4-bromo-phenyl)-4-oxo-butyric acid, methyl ester as an off-white solid; mp 49-51° C.

reactant | bromobenzene | 0.0950 mol, 10.0 mL | BrC1=CC=CC=C1 | C6H5Br
reactant | 3-carbomethoxypropionyl chloride | 0.105 mol, 12.9 mL | C(=O)(OC)CCC(=O)Cl | C5H7ClO3
reactant | aluminum chloride | 0.202 mol, 26.9 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-(4-Bromo-phenyl)-4-oxo-butyric acid, methyl ester | BrC1=CC=C(C=C1)C(CCC(=O)OC)=O | C11H11BrO3
